US09169259B2
6-Phenyl-N-(6-(piperidin-1-yl)pyridin-2-yl)imidazo[1,2-b]pyridazin-8-amine hydrochloride
A mixture of 6-chloro-N-(6-(piperidin-1-yl)pyridin-2-yl)imidazo[1,2-b]pyridazin-8-amine (130 mg, 0.4 mmol), phenylboronic acid (74 mg, 0.6 mmol), Pd2(dba)3 (24 mg, 0.04 mmol), X-phos (76 mg, 0.16 mmol) and K2CO3 (166 mg, 1.2 mmol) in dioxane (10 mL) and water (1 mL) was heated to 100° C. with stirring for 4 h under N2. The solvent was removed in vacuo and the resulting mixture was purified by chromatography (silica gel, 200-300 mesh, petroleum ether:ethyl acetate=3:1) to give crude product which was further purified by prep-HPLC (Gemini 5u C18 150×21.2 mm; inject volume: 3 mL/inj, flow rate: 20 mL/min; wavelength: 214 nm and 254 nm; gradient conditions: 20% acetonitrile/80% water (0.1% TFA, v/v) initially, proceeding to 40% acetonitrile/60% water (0.1% TFA, v/v) in a linear fashion over 9 min) to give a white solid. This was dissolved in methanol and three drops of concentrated HCl was added. After 5 minutes, the mixture was concentrated in vacuo to give the final product (135 mg, 58.3%) as an HCl salt. 1H NMR (300 MHz, CDCl3): δ 9.07 (s, 1H), 8.50 (d, 1H, J=2.1 Hz), 8.25 (d, 1H, J=2.1 Hz), 8.14-8.10 (m, 2H), 7.97-7.94 (m, 1H), 7.65-7.61 (m, 3H), 7.29 (d, 1H, J=8.1 Hz), 7.20 (d, 1H, J=8.1 Hz), 3.78-3.74 (m, 4 h), 2.02-3.00 (m, 4 h), 1.85-1.83 (m, 2H). LC-MS: 371, [M+H]+, tR=2.016 min, HPLC: 100% at 214 nm, 100% at 254 nm, tR=7.5 min.

reactant | 6-chloro-N-(6-(piperidin-1-yl)pyridin-2-yl)imidazo[1,2-b]pyridazin-8-amine | 0.4 mmol, 130 mg | ClC=1C=C(C=2N(N1)C=CN2)NC2=NC(=CC=C2)N2CCCCC2 | C16H17ClN6
reactant | phenylboronic acid | 0.6 mmol, 74 mg | C1(=CC=CC=C1)B(O)O | C6H7BO2
reactant | X-phos | 0.16 mmol, 76 mg | CC(C)C1=CC(=C(C(=C1)C(C)C)C2=C(C=CC=C2)P(C3CCCCC3)C4CCCCC4)C(C)C | C33H49P
reactant | K2CO3 | 1.2 mmol, 166 mg | C(=O)([O-])[O-].[K+].[K+]
solvent | dioxane | 10 mL | O1CCOCC1 | C4H8O2
solvent | water | 1 mL | O | H2O
solvent | methanol | CO | CH4O
catalyst | HCl | three drops | Cl | ClH
catalyst | Pd2(dba)3 | 0.04 mmol, 24 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | 6-Phenyl-N-(6-(piperidin-1-yl)pyridin-2-yl)imidazo[1,2-b]pyridazin-8-amine hydrochloride | 135 mg, 58.3% | Cl.C1(=CC=CC=C1)C=1C=C(C=2N(N1)C=CN2)NC2=NC(=CC=C2)N2CCCCC2 | InChI=1S/C22H22N6.ClH/c1-3-8-17(9-4-1)18-16-19(22-23-12-15-28(22)26-18)24-20-10-7-11-21(25-20)27-13-5-2-6-14-27;/h1,3-4,7-12,15-16H,2,5-6,13-14H2,(H,24,25);1H
